US08022209B2
To a solution of 4-chloro-2-thiophen-3-yl-pyridine (50 mg, 0.4 mmol) in toluene (1 mL) was added Pd(OAc)2 (2.3 mg, 0.01 mmol), 2-(di-t-butyl-phosphino)biphenyl (6.0 mg, 0.02 mmol), methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester (60 mg, 0.45 mmol), and NaOtBu (75 mg, 0.8 mmol). The resulting mixture was stirred at 90° C. for 16 h, then was cooled, poured into water, and extracted with EtOAc. The organic layer was dried and concentrated, and the resulting residue was purified by preparative TLC (hexanes/EtOAc) to yield methyl-[1-(2-thiophen-3-yl-pyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester as a white solid (60 mg, 42%).

reactant | 4-chloro-2-thiophen-3-yl-pyridine | 0.4 mmol, 50 mg | ClC1=CC(=NC=C1)C1=CSC=C1 | C9H6ClNS
reactant | 2-(di-t-butyl-phosphino)biphenyl | 0.02 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | methyl-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 0.45 mmol, 60 mg | C(C)(C)(C)OC(N(C1CNCC1)C)=O | C10H20N2O2
reactant | NaOtBu | 0.8 mmol, 75 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.01 mmol, 2.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
product | methyl-[1-(2-thiophen-3-yl-pyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 60 mg, 42% | C(C)(C)(C)OC(N(C1CN(CC1)C1=CC(=NC=C1)C1=CSC=C1)C)=O | C19H25N3O2S
